US07414076B2
Preparation of 3-dibenzylamino-1-propanesulfonic acid (Compound AV)
To a solution of dibenzylamine (9.8 mL, 50.8 mmol) in toluene (50 mL) was added 1,3-propane sultone (6.50 g, 53.3 mmol). The mixture was stirred at reflux for 3 h. A sticky paste was formed at the bottom of the flask. The reaction mixture was cooled to room temperature. The top layer was decanted; and the paste was partially dissolved in EtOAc with heating. The mixture was poured in a 10% EtOAc/Hexanes (200 mL). The mixture was heated and the paste was spread on the walls of the conical flask. The solvent was removed. This process was repeated twice. MeOH (75 mL) was added to the paste. The mixture was heated until a white solid appeared. The solid was collected by filtration, washed with cold MeOH, and dried in vacuo, affording compound AV, 7.03 g (43%).

reactant | dibenzylamine | 50.8 mmol, 9.8 mL | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | 1,3-propane sultone | 53.3 mmol, 6.50 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 3-dibenzylamino-1-propanesulfonic acid | C(C1=CC=CC=C1)N(CCCS(=O)(=O)O)CC1=CC=CC=C1 | C17H21NO3S
